US04140789
A mixture of 9.0 g of 1-allyloxy-2,3-dinitrobenzene, 400 ml of isopropanol and 12.4 g of gaseous methylamine is heated, in a pressure vessel, to 90° for 3 hours, whilst stirring. After cooling and letting-down, the reaction solution is evaporated under reduced pressure. The resulting oil is dried at 50°/0.01 mm Hg for 2 hours, whereupon 1-allyloxy-2-methylamino-3-nitrobenzene is obtained; this can be used further without purification.

reactant | 1-allyloxy-2,3-dinitrobenzene | 9.0 g | C(C=C)OC1=C(C(=CC=C1)[N+](=O)[O-])[N+](=O)[O-] | C9H8N2O5
reactant | methylamine | 12.4 g | CN | CH5N
solvent | isopropanol | 400 ml | C(C)(C)O | C3H8O
product | 1-allyloxy-2-methylamino-3-nitrobenzene | C(C=C)OC1=C(C(=CC=C1)[N+](=O)[O-])NC | C10H12N2O3
